US08067447B2
(1-(4-Fluorophenyl)-6-isopropyl-1H-indazol-5-yl)methanol (145 mg, 0.51 mmol) was dissolved in 5 mL of dry DCM and TiCl4 (60 mL of 1.0 M DCM solution, 60 mmol) was added portionwise and then stirred 30 min. Then the reaction was treated with 1-methoxy-2-methyl-1-(trimethylsiloxy)propene (0.2 mL, 1.0 mmol). The reaction was quenched with aqueous sodium bicarbonate and extracted 2×EtOAc, the organic layers dried over MgSO4, filtered, and concentrate. The residue was purified on SiO2 by MPLC using a 5:95 to 10:90 EtOAc/hexane gradient to give 87 mg (47% yield) of methyl 3-(1-(4-fluorophenyl)-6-isopropyl-1H-indazol-5-yl)-2,2-dimethylpropanoate. MS found: (M+H)+=369.

reactant | (1-(4-Fluorophenyl)-6-isopropyl-1H-indazol-5-yl)methanol | 0.51 mmol, 145 mg | FC1=CC=C(C=C1)N1N=CC2=CC(=C(C=C12)C(C)C)CO | C17H17FN2O
reactant | 1-methoxy-2-methyl-1-(trimethylsiloxy)propene | 1.0 mmol, 0.2 mL | COC(=C(C)C)O[Si](C)(C)C | C8H18O2Si
reactant | DCM | 5 mL | C(Cl)Cl | CH2Cl2
catalyst | TiCl4 | 60 mmol, 1.0 M, 60 mL | Cl[Ti](Cl)(Cl)Cl
product | methyl 3-(1-(4-fluorophenyl)-6-isopropyl-1H-indazol-5-yl)-2,2-dimethylpropanoate | 87 mg, 47% yield | FC1=CC=C(C=C1)N1N=CC2=CC(=C(C=C12)C(C)C)CC(C(=O)OC)(C)C | C22H25FN2O2
